US06486167B1
2,3-Dimethoxy-8,9-methylenedioxybenzo[i]phenanthridine
A mixture of 2-(3,4-methylenedioxy-6-nitrophenyl)-6,7-dimethoxy-1-naphthaldehyde (46 mg, 0.12 mmol) in acetic acid (3 mL) and zinc dust (100 mg, 1.5 mmol) was heated to reflux for 3 hours. Acetic acid was evaporated in vacuo and the residue extacted with chloroform. The chloroform solution was filtered through a celite bed. The filtrate was washed successively with saturated sodium bicarbonate solution and brine and evaporated to dryness. The residue obtained was chromatographed on 75 g silica using a 1:1 mixture of hexanes:ethyl acetate as eluent to give the title compound (32 mg, 80%); mp 171-171° C. IR (KBr) 1610, 1461, 1277; 1H NMR (CDCl3), δ4.06 (3H, s), 4.15 (3H, s), 6.15 (2H, s) 7.27 (11, s). 7.54 (1H, s), 7.85(11H, s), 7.94 (1H, d, J=8.7), 8.09(1H, s), 8.15 (1H, d, J=8.7), 9.88 (1H, s); 13C NMR (CDCl3) δ56.4, 56.6, 99.7, 102.3, 102.4, 107.7, 108.5, 118.5, 21.0, 121.2, 125.6, 127.7, 130.8, 131.2, 142.8, 145.9, 148.8, 149.7, 150.1; HRMS calcd for C20H15NO4+H; 334,.1079.

reactant | 2-(3,4-methylenedioxy-6-nitrophenyl)-6,7-dimethoxy-1-naphthaldehyde | 0.12 mmol, 46 mg | C1OC=2C=C(C(=CC2O1)[N+](=O)[O-])C1=C(C2=CC(=C(C=C2C=C1)OC)OC)C=O | C20H15NO7
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 1.5 mmol, 100 mg | [Zn] | Zn
product | 2,3-Dimethoxy-8,9-methylenedioxybenzo[i]phenanthridine | 32 mg, 80% | COC1=CC2=C(C=3C=NC=4C=C5C(=CC4C3C=C2)OCO5)C=C1OC | C20H15NO4
